US06130187
Preparation of 3-[4-chloro-6-fluoro-2-(1-methoxyiminoethyl) benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil (Compound No. 37)
20 ml of methanol was added to 0.4 g (1 mmol) of 3-(2-acetyl-4-chloro-6-fluorobenzofuran-7-yl) -1-methyl-6-trifluoromethyluracil, 0.4 g (4 mmol) of potassium acetate and 0.33 g (4 mmol) of methoxyamine hydrochloride, followed by stirring at room temperature for 12 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The obtained residue was purified directly by silica gel column chromatography to obtain 0.28 g (yield: 64.6%) of the desired product as white powder. Melting point: 176-178° C.

reactant | 3-(2-acetyl-4-chloro-6-fluorobenzofuran-7-yl) -1-methyl-6-trifluoromethyluracil | 1 mmol, 0.4 g | C(C)(=O)C=1OC2=C(C1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C16H9ClF4N2O4
reactant | potassium acetate | 4 mmol, 0.4 g | C(C)(=O)[O-].[K+]
reactant | methoxyamine hydrochloride | 4 mmol, 0.33 g | Cl.CON
solvent | methanol | 20 ml | CO | CH4O
product | 3-[4-chloro-6-fluoro-2-(1-methoxyiminoethyl) benzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 0.28 g, yield: 64.6% | ClC1=CC(=C(C2=C1C=C(O2)C(C)=NOC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C17H12ClF4N3O4
